US07271197B2
iii) 2-[4-(2-Bromoethyl)phenoxy]ethanol
1-[2-(benzyloxy)ethoxy]-4-(2-bromoethyl)benzene in EtOAc (150 mL) and EtOH (50 mL) was hydrogenated over 10% Pd/C (530 mg) at room temperature and atmospheric pressure for 8 h. The catalyst was removed by filtration over Celite, washed with EtOAc and concentrated in vacuo to give the title compound (3.6 g). LCMS RT=2.82 min.

reactant | 1-[2-(benzyloxy)ethoxy]-4-(2-bromoethyl)benzene | C(C1=CC=CC=C1)OCCOC1=CC=C(C=C1)CCBr | C17H19BrO2
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
solvent | EtOH | 50 mL | CCO | C2H6O
catalyst | Pd/C | 530 mg | [Pd] | Pd
product | 2-[4-(2-Bromoethyl)phenoxy]ethanol | 3.6 g | BrCCC1=CC=C(OCCO)C=C1 | C10H13BrO2
